US05703096
37(a) 5-{4-[2-(1-{4-[N-(Phenylsulfonyl)-N-methylamino]phenyl}ethylideneaminooxy)ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 667 mg of 2-(1-{4-[N-(phenyl-sulfonyl)-N-methylamino]phenyl}ethylideneaminooxy)-ethanol (prepared as described in Preparation 37), 1.02 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 577 mg of triphenylphosphine and 383 mg of diethyl azodicarboxylate, 554 mg of the title compound were obtained as a crystalline powder, melting at 143°-145° C.

reactant | 2-(1-{4-[N-(phenyl-sulfonyl)-N-methylamino]phenyl}ethylideneaminooxy)-ethanol | 667 mg | C1(=CC=CC=C1)S(=O)(=O)N(C)C1=CC=C(C=C1)C(C)=NOCCO | C17H20N2O4S
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.02 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 577 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 383 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(1-{4-[N-(Phenylsulfonyl)-N-methylamino]phenyl}ethylideneaminooxy)ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione | 554 mg | C1(=CC=CC=C1)S(=O)(=O)N(C)C1=CC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C46H41N3O6S2
